US09120749B2
(6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-(6-(2-(dimethylamino)ethoxy)pyridin-3-ylamino) quinolin-3-yl)(cyclopropyl)methanone
Following general procedure D, (6-bromo-4-(6-(2-(dimethylamino)ethoxy)pyridin-3-ylamino)quinolin-3-yl)(cyclopropyl)methanone (100 mg, 0.22 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (90 mg, 0.33 mmol) to afford the desired product (21 mg, 18%) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.25 (s, 1H), 8.08 (d, J=2.7 Hz, 1H), 7.94 (m, 2H), 7.82 (s, 1H), 7.56 (dd, J=8.8, 2.7 Hz, 1H), 7.06-6.96 (m, 2H), 6.92 (d, J=8.8 Hz, 1H), 4.53 (t, J=5.5 Hz, 2H), 3.00 (t, J=5.5 Hz, 2H), 2.95-2.86 (m, 1H), 2.51 (s, 6H), 1.23-1.14 (m, 2H), 1.17-1.07 (m, 2H); ESI MS m/z 521 [C28H26ClFN4O3+H]+; HPLC>99% (AUC), tR=11.15 min.

reactant | (6-bromo-4-(6-(2-(dimethylamino)ethoxy)pyridin-3-ylamino)quinolin-3-yl)(cyclopropyl)methanone | 0.22 mmol, 100 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=CC1)OCCN(C)C | C22H23BrN4O2
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.33 mmol, 90 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | (6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-(6-(2-(dimethylamino)ethoxy)pyridin-3-ylamino) quinolin-3-yl)(cyclopropyl)methanone | 21 mg, 18% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=CC1)OCCN(C)C | C28H26ClFN4O3
